US04992576
5-(3-Carboxybenzoyl)-2-hydroxybenzenepropanoic acid
A mixture of 41.5 g of 5-[3-(ethoxycarbonyl)benzoyl]-2-methoxybenzenepropanoic acid, ethyl ester and 410 g of pyridine hydrochloride were heated at 180° C. for 4 hours. After cooling, water was added to the mixture while hot. As the mixture cooled, the title product precipitated from solution. Filtration of the solids and crystallization from ethanol/water provided 31.1 g of the title product, m.p. 197°-200° C.

reactant | 5-[3-(ethoxycarbonyl)benzoyl]-2-methoxybenzenepropanoic acid, ethyl ester | 41.5 g | C(C)OC(=O)C=1C=C(C(=O)C=2C=CC(=C(C2)CCC(=O)OCC)OC)C=CC1 | C22H24O6
reactant | pyridine hydrochloride | 410 g | Cl.N1=CC=CC=C1
solvent | water | O | H2O
product | 5-(3-Carboxybenzoyl)-2-hydroxybenzenepropanoic acid | 31.1 g | C(=O)(O)C=1C=C(C(=O)C=2C=CC(=C(C2)CCC(=O)O)O)C=CC1 | C17H14O6
